US08431605B2
b) Amino-4-propyl-thiazole-5-carboxylic acid ethyl ester
2-Bromo-3-oxo-hexanoic acid ethyl ester (5.9 g, 25 mmol), was dissolved in 60 mL of ethanol containing triethylamine (4.2 mL, 30 mmol) and thiourea (1.9 g, 25 mmol). The colorless solution was protected from light and allowed to stir for 16 hours. The resulting red suspension was evaporated to dryness and dissolved in a minimum of dichloromethane. This solution was washed three times with an equal volume of a saturated aqueous solution of sodium bicarbonate, followed by a saturated aqueous solution of sodium chloride. The organic layer was separated and filtered to remove a fine red precipitate which remained suspended in the organic phase. The solvent was removed and then the solid was dissolved in a minimum of 50/50 (v/v) ethyl acetate and 1 N aqueous solution of hydrochloric acid. The layers were separated and the aqueous layer was washed with an equal volume of ethyl acetate. After discarding the organic layers, the aqueous layer was then placed in an ice bath with an equal volume of ethyl acetate. Sodium hydroxide (1N) was then slowly added with vigorous swirling until the aqueous phase was basic. The layers were separated and the aqueous layer was washed two additional times with ethyl acetate. The combined organic layers were washed three times with an equal volume of a solution of saturated aqueous sodium bicarbonate followed by a solution of saturated aqueous sodium chloride. The organic layer was then dried over sodium sulfate and evaporated to dryness to yield a pale yellow solid (1.8 g, 8.4 mmol, 34%) ESI-MS m/z calc. 214.1. found 215.3 (M+1)+ Retention time 1.90 minutes.

reactant | 2-Bromo-3-oxo-hexanoic acid ethyl ester | 25 mmol, 5.9 g | C(C)OC(C(C(CCC)=O)Br)=O | C8H13BrO3
reactant | triethylamine | 30 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | thiourea | 25 mmol, 1.9 g | NC(=S)N | CH4N2S
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | Amino-4-propyl-thiazole-5-carboxylic acid ethyl ester | 8.4 mmol, 1.8 g, 34% | C(C)OC(=O)C1=C(N=C(S1)N)CCC | C9H14N2O2S
